US04053601
i. A mixture of 6-chloro-3-(2-hydroxy-4-methoxyphenyl)-pyridazine, t-butyl carbazate and 1,8-bis-(dimethylamino)-naphthalene was heated for 2 hours to give 6-(2-t-butyloxycarbonylhydrazino)-3-(2-hydroxy-4-methoxyphenyl)pyridazine.

reactant | 6-chloro-3-(2-hydroxy-4-methoxyphenyl)-pyridazine | ClC1=CC=C(N=N1)C1=C(C=C(C=C1)OC)O | C11H9ClN2O2
reactant | t-butyl carbazate | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 1,8-bis-(dimethylamino)-naphthalene | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
product | 6-(2-t-butyloxycarbonylhydrazino)-3-(2-hydroxy-4-methoxyphenyl)pyridazine | C(C)(C)(C)OC(=O)NNC1=CC=C(N=N1)C1=C(C=C(C=C1)OC)O | C16H20N4O4
